US05759443
A mixture of 0.157 g of 4-(5-heptyl-2-pyridyl)-phenol, 0.153 g of (8-bromooctyl)-cyclopentane, 6 ml of dimethylformamide and 0.24 g of finely powdered potassium carbonate was stirred at 55° C. for 3 hours. The reaction mixture was partitioned between water and diethyl ether. The organic phase was washed with water and with saturated sodium chloride solution, dried over magnesium sulphate, filtered and the filtrate was concentrated. Chromatography of the crude product (0.28 g) on 10 g of silica gel with hexane/ethyl acetate 37:3 (v/v) and two-fold recrystallization of the product-containing fractions from 3 ml of hexane each time gave 0.16 g of pure 5-heptyl-2-[4-(8-cyclopentyl-octyloxy)-phenyl]-pyridine; m.p. (C-SI) 38.3° C., SI -SC 56.9° C., cl.p. (SC -I) 72.6° C.

reactant | 4-(5-heptyl-2-pyridyl)-phenol | 0.157 g | C(CCCCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)O | C18H23NO
reactant | (8-bromooctyl)-cyclopentane | 0.153 g | BrCCCCCCCCC1CCCC1 | C13H25Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 5-heptyl-2-[4-(8-cyclopentyl-octyloxy)-phenyl]-pyridine | 0.16 g | C(CCCCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)OCCCCCCCCC1CCCC1 | C31H47NO
